US07399775B2
2-(4-Chlorophenylsulfonylmethyl)thiazole
To a chloroform (15 ml) solution of thiazole-2-methanol (171 mg, 1.49 mmol) was added thionyl chloride (0.33 ml, 4.47 mmol) and the resulting mixture was stirred at 50° C. for 11 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in butanol (10 ml). To the resulting solution were added sodium 4-chlorobenzenesulfinate (296 mg, 1.49 mmol) and potassium acetate (292 mg, 2.98 mmol). The mixture was stirred at 70° C. for 24 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue. The mixture was washed successively with water and brine and then, dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column. The fraction obtained from the hexane:ethyl acetate (=1:1) eluate was concentrated under reduced pressure, whereby the title compound (169 mg, 41%) was obtained as a pale yellow solid.

reactant | thiazole-2-methanol | 1.49 mmol, 171 mg | S1C(=NC=C1)CO | C4H5NOS
reactant | thionyl chloride | 4.47 mmol, 0.33 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 4-chlorobenzenesulfinate | 1.49 mmol, 296 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | potassium acetate | 2.98 mmol, 292 mg | C(C)(=O)[O-].[K+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Chlorophenylsulfonylmethyl)thiazole | ClC1=CC=C(C=C1)S(=O)(=O)CC=1SC=CN1 | C10H8ClNO2S2
